US06008382
A solution of 50 g (0.12 mol) of podophyllotoxin I, prepared in 50 ml of acetone, is added with stirring at ordinary temperature to a mixture consisting of 100 g (0.67 mol) of D,L-methionine, of 500 ml (7.7 mol) of methanesulfonic acid and of 10 ml of water. The temperature rises to approximately 40° C. and stirring is maintained for 2 h with return to ambient temperature. The mixture is then poured onto ice in order to obtain a precipitate which is extracted with ethyl acetate (3×700 ml). The organic phases are washed with an NaHCO3 solution and then separated by settling, dried over Na2SO4, filtered and evaporated under reduced pressure in order to obtain 4'-demethylepipodophyllotoxin, existing in the form of a white solid. 45 g (Yd 94%) are obtained.

reactant | podophyllotoxin | 0.12 mol, 50 g | COC=1C=C(C=C(C1OC)OC)[C@@H]2C=3C=C4C(=CC3[C@@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C22H22O8
reactant | D,L-methionine | 0.67 mol, 100 g | NC(CCSC)C(=O)O | C5H11NO2S
reactant | methanesulfonic acid | 7.7 mol, 500 ml | CS(=O)(=O)O | CH4O3S
reactant | water | 10 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4'-demethylepipodophyllotoxin | COC=1C=C(C=C(C1O)OC)[C@@H]2C=3C=C4C(=CC3[C@H]([C@@H]5[C@@H]2C(=O)OC5)O)OCO4 | C21H20O8
